US07186729B2
Step 1: (R)-3-(4-Chloro-benzyloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester
A solution of (R)-3-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester (1.14 mmol, 1.0 eq) in THF (2.5 mL) was added to a suspension of sodium hydride (1.15 eq) in THF (2.5 mL) cooled at 0° C. and the resulting mixture was stirred for 45 min. A solution of 4-chlorobenzyl bromide (1.31 mmol, 1.15 eq) in THF (2.0 mL) was then added drop wise and reaction mixture was slowly warmed to room temperature and stirred for 18 h. The reaction mixture was quenched with water (1.0 ml) and diluted with ethyl acetate. The combined organics were dried over sodium sulfate. The crude product was purified on silica using gradient elution from hexane/ethyl acetate (10%) to hexane/ethyl acetate (30%). 1H-NMR (CDCL3) δ: 1.45 (9H, s), 1.80–2.05 (2H, m), 3.30–3.55 (4H, m), 4.05 (1H, m), 4.45 (2H, s), 7.15–7.30 (4H, m). ESI-MS m/z:311 (M+1), UV retention time: 2.94 min.

reactant | (R)-3-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.14 mmol, 1.0 eq | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)O | C9H17NO3
reactant | sodium hydride | 1.15 eq | [H-].[Na+]
reactant | 4-chlorobenzyl bromide | 1.31 mmol, 1.15 eq | ClC1=CC=C(CBr)C=C1 | C7H6BrCl
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | (R)-3-(4-Chloro-benzyloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)OCC1=CC=C(C=C1)Cl | C16H22ClNO3
